US07138533B2
Ethyl (±)-1,3-dimethyl-2,5-dioxo-2,3,5,6,7,8-hexahydro-1H-naphtho[2,3-d]imidazole-6-carboxylate
60% Oily sodium hydride (6 g) was washed with n-hexane (2×30 ml), and the solvent was removed by decantation. Tetrahydrofuran (200 ml) and subsequently diethyl carbonate (9.8 g) were added thereto, and the mixture was refluxed gently. To the suspension was added dropwise a solution of 1,3-dimethyl-3,6,7,8-tetrahydro-1H-naphtho[2,3-d]imidazole-2,5-dione (10 g, 43.4 mmol) obtained in Reference Example 137 in hot tetrahydrofuran while maintaining refluxing. The mixture was refluxed for 18 hours, and allowed to cool, and then acetic acid (18 ml) was carefully added dropwise to decompose excessive sodium hydride. Further, water was added, extracted with ethyl acetate, and washed with brine. The organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and the residue was crystallized from ethanol-diethyl ether to give the title compound as colorless crystals (7.0 g).

reactant | 1,3-dimethyl-3,6,7,8-tetrahydro-1H-naphtho[2,3-d]imidazole-2,5-dione | 43.4 mmol, 10 g | CN1C(N(C2=C1C=C1CCCC(C1=C2)=O)C)=O | C13H14N2O2
reactant | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydride | [H-].[Na+]
reactant | water | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl (±)-1,3-dimethyl-2,5-dioxo-2,3,5,6,7,8-hexahydro-1H-naphtho[2,3-d]imidazole-6-carboxylate | 7.0 g | CN1C(N(C2=C1C=C1CCC(C(C1=C2)=O)C(=O)OCC)C)=O | C16H18N2O4
